US07935841B2
(iii) Trifluoromethanesulfonic acid (R,R)-2,5-diphenyl-phospholan-1-ylmethyl ester borane adduct
(R,R)-(2,5-Diphenylphospholan-1-yl)methanol borane adduct (4.70 g, 16.5 mmol) was dissolved in DCM (40 ml) under nitrogen and cooled to −30° C. Triethylamine (2.5 ml, 18.2 mmol) was added followed by triflic anhydride (3.10 ml, 18.2 mmol) dropwise over 5 minutes (temperature −30 to −27° C.). The reaction was stirred for 45 minutes and then quenched with water (20 ml). The organic phase was separated and washed with water (2×20 ml). Dried (MgSO4) and filtered through a pad of silica eluting with DCM (50 ml). Evaporated under reduced pressure to give the title compound as a colourless oil (6.23 g, 90%).

reactant | (R,R)-(2,5-Diphenylphospholan-1-yl)methanol borane | 16.5 mmol, 4.70 g | B.C1(=CC=CC=C1)[C@@H]1P([C@H](CC1)C1=CC=CC=C1)CO
reactant | Triethylamine | 18.2 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 18.2 mmol, 3.10 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid (R,R)-2,5-diphenyl-phospholan-1-ylmethyl ester borane | 6.23 g, 90% | B.C1(=CC=CC=C1)[C@@H]1P([C@H](CC1)C1=CC=CC=C1)COS(=O)(=O)C(F)(F)F | InChI=1S/C18H18F3O3PS.BH3/c19-18(20,21)26(22,23)24-13-25-16(14-7-3-1-4-8-14)11-12-17(25)15-9-5-2-6-10-15;/h1-10,16-17H,11-13H2;1H3/t16-,17-;/m1./s1
